### PR TITLE
feat(GroupTheory): summation over a conjugacy class

### PR DESCRIPTION
**Pull request by Yu-Misaka**
This PR proves `ConjClasses.sum_carrier_mul_left`: Summing `f (g * h)` over `h` in the conjugacy class of `g` equals summing `f (h * g)`.

This result can potentially help prove, for example, `∑ h ∈ (ConjClasses.mk g).carrier, ρ h` is intertwining in the settings of representation theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Conj.lean [hunk 1]
```diff
@@ -294,4 +295,19 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
 theorem carrier_eq_preimage_mk {a : ConjClasses α} : a.carrier = ConjClasses.mk ⁻¹' {a} :=
   Set.ext fun _ => mem_carrier_iff_mk_eq
 
+lemma mk_mulAut {α : Type*} [Group α] (m x : α) :
```
Comment (wwylele) [inline Mathlib/Algebra/Group/Conj.lean]: simp?
```suggestion
@[simp]
lemma mk_mulAut {α : Type*} [Group α] (m x : α) :
```

File: Mathlib/GroupTheory/ClassEquation.lean [hunk 2]
```diff
@@ -37,6 +37,15 @@ theorem sum_conjClasses_card_eq_card [Fintype <| ConjClasses G] [Fintype G]
   suffices (Σ x : ConjClasses G, x.carrier) ≃ G by simpa using! (Fintype.card_congr this)
   simpa [carrier_eq_preimage_mk] using! Equiv.sigmaFiberEquiv ConjClasses.mk
 
+/-- Summing `f (g * h)` over `h` in the conjugacy class of `g` equals summing `f (h * g)`. -/
+theorem ConjClasses.sum_carrier_mul_left {G H} [Group G] [Fintype G] [DecidableEq G]
+    [AddCommMonoid H] (g : G) (f : G → H) :
+    ∑ h ∈ (ConjClasses.mk g).carrier, f (g * h) = ∑ h ∈ (ConjClasses.mk g).carrier, f (h * g) := by
```
Comment (wwylele) [inline Mathlib/GroupTheory/ClassEquation.lean]: - Could you write the `Finset.prod` version, then add  `@[to_additive]`?
 - Is this the correct file? The proof doesn't use lemmas before it in this file (`sum_conjClasses_card_eq_card`)

Comment (Yu-Misaka) [reply Mathlib/GroupTheory/ClassEquation.lean]: Sure, will try. Thanks for the suggestion. As for the file, no it does not use any lemma in the file, I put it here just because there are many "summation over conjugacy classes" here...

File: Mathlib/Algebra/Group/Conj.lean [hunk 3]
```diff
@@ -294,4 +295,20 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
 theorem carrier_eq_preimage_mk {a : ConjClasses α} : a.carrier = ConjClasses.mk ⁻¹' {a} :=
   Set.ext fun _ => mem_carrier_iff_mk_eq
 
+@[simp]
+lemma mk_mulAut {α : Type*} [Group α] (m x : α) :
+    ConjClasses.mk (MulAut.conj m x) = ConjClasses.mk x := by
+  rw [mk_eq_mk_iff_isConj, MulAut.conj_apply]
+  exact (isConj_iff.2 ⟨m, rfl⟩).symm
+
+theorem bijOn_conj {α : Type*} [Group α] (k : α) (c : ConjClasses α) :
```
Comment (wwylele) [inline Mathlib/Algebra/Group/Conj.lean]: These two lemma should also have `@[to_additive]`

File: Mathlib/GroupTheory/ClassEquation.lean [hunk 4]
```diff
@@ -37,6 +37,18 @@ theorem sum_conjClasses_card_eq_card [Fintype <| ConjClasses G] [Fintype G]
   suffices (Σ x : ConjClasses G, x.carrier) ≃ G by simpa using! (Fintype.card_congr this)
   simpa [carrier_eq_preimage_mk] using! Equiv.sigmaFiberEquiv ConjClasses.mk
 
+/-- Multiplying `f (g * h)` over `h` in the conjugacy class of `g` equals multiplying
+`f (h * g)` over `h`. -/
+@[to_additive (dont_translate := G) ConjClasses.sum_carrier_mul_left /-- Summing `f (g * h)`
+over `h` in the conjugacy class of `g` equals summing `f (h * g)` over `h`.-/]
+theorem ConjClasses.prod_carrier_mul_left {G H} [Group G] [Fintype G] [DecidableEq G]
```
Comment (wwylele) [inline Mathlib/GroupTheory/ClassEquation.lean]: I just realized realized that this lemma can be `to_additive` on either G and H separately. To achieve that, a nested `to_additive` tag might work. 

I also wonder if this should be factored into two lemmas so you don't get combinatorial growth from to_additive. One idea is to change the call side to a composition of `Finset.prod_eq_multiset_prod`, and a new lemma that states `Multiset.map (fun h => f (g * h)) (ConjClasses.mk g).carrier` = `Multiset.map (fun h => f (h * g)) (ConjClasses.mk g).carrier`

Comment (wwylele) [reply Mathlib/GroupTheory/ClassEquation.lean]: Note that `Multiset.map (fun h => f (g * h)) (ConjClasses.mk g).carrier = Multiset.map (fun h => f (h * g)) (ConjClasses.mk g).carrier` can be further factored into composition of `Multiset.map_map f` and `Multiset.map (fun h => g * h) (ConjClasses.mk g).carrier = Multiset.map (fun h => h * g) (ConjClasses.mk g).carrier`.

Comment (Yu-Misaka) [reply Mathlib/GroupTheory/ClassEquation.lean]: Good idea, thanks! Then I propose something like this, and maybe put in Algebra/Group/ConjFinite:
```lean4
theorem ConjClasses.mk_carrier_map_conj {G} [Group G] [Fintype G] [DecidableEq G] (g : G) :
    (ConjClasses.mk g).carrier.toFinset.1.map (MulAut.conj g) =
    (ConjClasses.mk g).carrier.toFinset.1 := by
  have hbij := bijOn_conj g (ConjClasses.mk g)
  rw [← Finset.image_val_of_injOn <| hbij.injOn.mono <| Set.subset_toFinset.1 fun ⦃_⦄ x ↦ x,
    Finset.val_inj, ← Finset.coe_inj, Finset.coe_image, Set.coe_toFinset, hbij.image_eq]

theorem ConjClasses.mk_carrier_map_mul_left {G} [Group G] [Fintype G] [DecidableEq G] (g : G) :
    (ConjClasses.mk g).carrier.toFinset.1.map (fun h ↦ g * h) =
    (ConjClasses.mk g).carrier.toFinset.1.map (fun h ↦ h * g) := by
  conv_rhs => rw [← ConjClasses.mk_carrier_map_conj, Multiset.map_map]
  exact Multiset.map_congr rfl fun _ _ ↦ by simp [MulAut.conj_apply]

theorem ConjClasses.prod_carrier_mulAut {G H} [Group G] [Fintype G] [DecidableEq G]
    [CommMonoid H] (g : G) (f : G → H) :
    ∏ h ∈ (ConjClasses.mk g).carrier, f (MulAut.conj g h) =
    ∏ h ∈ (ConjClasses.mk g).carrier, f h := by
  change ((ConjClasses.mk g).carrier.toFinset.1.map (f ∘ MulAut.conj g)).prod = _
  rw [← Multiset.map_map, mk_carrier_map_conj, Finset.prod_eq_multiset_prod]

theorem ConjClasses.prod_carrier_mul_left {G H} [Group G] [Fintype G] [DecidableEq G]
    [CommMonoid H] (g : G) (f : G → H) :
    ∏ h ∈ (ConjClasses.mk g).carrier, f (g * h) =
    ∏ h ∈ (ConjClasses.mk g).carrier, f (h * g) := by
  change ((ConjClasses.mk g).carrier.toFinset.1.map (f ∘ (fun x ↦ g * x))).prod = _
  rw [← Multiset.map_map, mk_carrier_map_mul_left, Finset.prod_eq_multiset_prod,
    Multiset.map_map]; rfl
```
The thing I am not sure about is adding `to_additive` to `G`. This will require `Fintype` on the carrier of `ConjClasses` as well as `DecidableRel` on `IsConj`. Both need more modification on existing instance.

In short, adding `to_additive` on [instDecidableRelIsConjOfDecidableEqOfFintype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/ConjFinite.html#instDecidableRelIsConjOfDecidableEqOfFintype) seems to fail because [instFintypeUnitsOfDecidableEq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Units/Fintype.html#instFintypeUnitsOfDecidableEq) does not have `to_additive`, which further implies we need additive [unitsEquivProdSubtype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Units/Equiv.html#unitsEquivProdSubtype).

So... I just want to pause and ask am I right about this? If so then I am happy to proceed and make these changes.

Comment (wwylele) [reply Mathlib/GroupTheory/ClassEquation.lean]: I see. It looks like there is a whole missing chain of additivization that's out of the scope of the PR, then yeah I think it is fine to leave that out for the future.

File: Mathlib/Algebra/Group/ConjFinite.lean [hunk 5]
```diff
@@ -43,4 +43,36 @@ variable [Fintype α] [DecidableRel (IsConj : α → α → Prop)]
...
+  rw [← Finset.image_val_of_injOn <| hbij.injOn.mono <| Set.subset_toFinset.1 fun ⦃_⦄ x ↦ x,
+    Finset.val_inj, ← Finset.coe_inj, Finset.coe_image, Set.coe_toFinset, hbij.image_eq]
+
+theorem mk_carrier_map_mul_left :
+    (ConjClasses.mk g).carrier.toFinset.1.map (fun h ↦ g * h) =
+    (ConjClasses.mk g).carrier.toFinset.1.map (fun h ↦ h * g) := by
+  conv_rhs => rw [← ConjClasses.mk_carrier_map_conj, Multiset.map_map]
+  exact Multiset.map_congr rfl fun _ _ ↦ by simp [MulAut.conj_apply]
+
+theorem prod_carrier_mulAut (f : G → H) :
```
Comment (wwylele) [inline Mathlib/Algebra/Group/ConjFinite.lean]: You probably still want to additivize on H

**Review by wwylele — COMMENTED** [review]
Otherwise looks good to me

File: Mathlib/Algebra/Group/ConjFinite.lean (hunk 5 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/ConjFinite.lean]: Ah, yes, thanks for the reminder!

File: Mathlib/Algebra/Group/ConjFinite.lean [hunk 6]
```diff
@@ -43,4 +43,46 @@ variable [Fintype α] [DecidableRel (IsConj : α → α → Prop)]
...
+
+/-- Multiplying `f (g * h * g⁻¹)` over `h` in the conjugacy class of `g` equals multiplying
+`f h` over `h`. -/
+@[to_additive (dont_translate := G) ConjClasses.sum_carrier_mulAut
+/-- Summing `f (g * h * g⁻¹)` over `h` in the conjugacy class of `g` equals summing
+`f h` over `h`. -/]
+theorem prod_carrier_mulAut (f : G → H) :
+    ∏ h ∈ (ConjClasses.mk g).carrier, f (MulAut.conj g h) =
+    ∏ h ∈ (ConjClasses.mk g).carrier, f h := by
+  change ((ConjClasses.mk g).carrier.toFinset.1.map (f ∘ MulAut.conj g)).prod = _
```
Comment (tb65536) [inline Mathlib/Algebra/Group/ConjFinite.lean]: Can we avoid the change? Typically change is a sign of missing API lemmas.

File: Mathlib/Algebra/Group/Conj.lean [hunk 7]
```diff
@@ -294,4 +295,21 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
 theorem carrier_eq_preimage_mk {a : ConjClasses α} : a.carrier = ConjClasses.mk ⁻¹' {a} :=
   Set.ext fun _ => mem_carrier_iff_mk_eq
 
+@[to_additive (attr := simp)]
+lemma mk_mulAut {α : Type*} [Group α] (m x : α) :
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Conj.lean]: The name of this lemma doesn't really match the statement. Maybe the name should be `mk_conj` and the statement should be phrased in terms of `MulAut.conj`?

Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: Oh, I originally used `MulAut.conj`, but simpNF was complaining its [not normal form](https://github.com/leanprover-community/mathlib4/actions/runs/28670657829/job/85038236885). As for the name, yes `mk_conj` is better, I'll change it, thanks!

Comment (tb65536) [reply Mathlib/Algebra/Group/Conj.lean]: Ah, sure.

Comment (wwylele) [reply Mathlib/Algebra/Group/Conj.lean]: Sorry that I didn't realize my original suggestion of tagging `@[simp]` was causing problem in the linter. That's where I would step back and reconsider whether it should be simp (or whether existing simp set is ideal). Anyway, I am fine with the current statement aside from naming

File: Mathlib/Algebra/Group/ConjFinite.lean (hunk 6 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/ConjFinite.lean]: Yes we can, I've updated it.

File: Mathlib/GroupTheory/ClassEquation.lean (hunk 4 above)
Comment (Yu-Misaka) [reply Mathlib/GroupTheory/ClassEquation.lean]: btw in that case should we still keep the Multiset factorization?

I want to ask because passing through Multiset doesn't seem to bring much benefit as we can close the proof using `Fintype.prod_equiv` in two lines anyway. 

Still, if the Multiset statements are potentially useful, I'm glad to add them back.

File: Mathlib/Algebra/Group/Conj.lean [hunk 8]
```diff
@@ -294,4 +295,21 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
 theorem carrier_eq_preimage_mk {a : ConjClasses α} : a.carrier = ConjClasses.mk ⁻¹' {a} :=
   Set.ext fun _ => mem_carrier_iff_mk_eq
 
+@[to_additive (attr := simp)]
+lemma mk_conj {α : Type*} [Group α] (m x : α) :
+    ConjClasses.mk (m * x * m⁻¹) = ConjClasses.mk x := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Conj.lean]: Can you
1. add a simp lemma saying that `IsConj x y` implies `mk x = mk y`, if it doesn't already exist;
2. add a simp lemma saying that `IsConj (m * x * m⁻¹) x` (and all three other symmetric versions), if it doesn't already exist;
3. make sure your lemma is proved by simp;
4. delete your lemma?

File: Mathlib/Algebra/Group/Conj.lean [hunk 9]
```diff
@@ -294,4 +295,21 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
...
+@[to_additive]
+theorem bijOn_conj {α : Type*} [Group α] (k : α) (c : ConjClasses α) :
+    Set.BijOn (MulAut.conj k) c.carrier c.carrier := by
+  refine ⟨fun a ha ↦ ?_, (MulAut.conj k).injective.injOn, fun b hb ↦ ?_⟩
+  · rw [mem_carrier_iff_mk_eq] at ha ⊢
+    rw [MulAut.conj_apply, mk_conj, ha]
+  · rw [mem_carrier_iff_mk_eq] at hb
+    refine ⟨MulAut.conj k⁻¹ b, ?_, ?_⟩
+    · rw [mem_carrier_iff_mk_eq, MulAut.conj_apply, mk_conj, hb]
+    · rw [← MulAut.mul_apply, ← map_mul, mul_inv_cancel, map_one, MulAut.one_apply]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Conj.lean]: This proof should be a one-liner from the fact that `conj k` and `conj k^-1` are inverse to each other and map `c.carrier` to itself. Try proving the stronger `InvOn` statement first

File: Mathlib/Algebra/Group/ConjFinite.lean [hunk 10]
```diff
@@ -43,4 +43,31 @@ variable [Fintype α] [DecidableRel (IsConj : α → α → Prop)]
...
+
+/-- Multiplying `f (g * h * g⁻¹)` over `h` in any conjugacy class of `G` equals multiplying
+`f h` over `h`. -/
+@[to_additive (dont_translate := G) ConjClasses.sum_carrier_conj
+/-- Summing `f (g * h * g⁻¹)` over `h` in any conjugacy class of `G` equals summing
+`f h` over `h`. -/]
+theorem prod_carrier_conj :
+    ∏ h ∈ c.carrier, f (MulAut.conj g h) = ∏ h ∈ c.carrier, f h := by
+  rw [← Finset.prod_set_coe, ← Finset.prod_set_coe]
+  exact Fintype.prod_equiv (bijOn_conj g _).equiv _ _ fun _ ↦ by simp [Set.BijOn.equiv]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/ConjFinite.lean]: Can you use `Finset.prod_nbij` instead?

File: Mathlib/Algebra/Group/ConjFinite.lean [hunk 11]
```diff
@@ -43,4 +43,31 @@ variable [Fintype α] [DecidableRel (IsConj : α → α → Prop)]
 instance {x : ConjClasses α} : Fintype (carrier x) :=
   Quotient.recOnSubsingleton x fun _ => conjugatesOf.fintype
 
+section Group
+
+variable {G H : Type*} [Group G] [Fintype G] [DecidableEq G] [CommMonoid H]
+  (c : ConjClasses G) (g : G) (f : G → H)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/ConjFinite.lean]:
```suggestion
variable {G M : Type*} [Group G] [Fintype G] [DecidableEq G] [CommMonoid M]
  (c : ConjClasses G) (g : G) (f : G → M)
```

File: Mathlib/Algebra/Group/Conj.lean (hunk 8 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: Thanks for your review! I'm happy to implement them, but I'm a bit unsure about:
1. We have [ConjClasses.mk_eq_mk_iff_isConj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Conj.html#ConjClasses.mk_eq_mk_iff_isConj) for `IsConj x y → mk x = mk y`, but it is an iff lemma with direction flipped, should I swap it back?
2. `IsConj x y` is not a simpNF form due to [isConj_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Conj.html#isConj_iff), so I can't mark `IsConj (m * x * m⁻¹) x` etc. as simp lemma, should I remove the simp tag in `isConj_iff`?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean]: 1. simp works specifically with implications, so you need to add the implication
2. Oh that looks bad. Yeah, try unsimping it

Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: Sorry for the delay getting back to you, I tried adding the implication as a simp lemma, but simpNF rejects it  again, this time perhaps because the rewrite is `ConjClasses.mk a` to `ConjClasses.mk b`, and `b` cannot be inferred from the left-hand side?

```lean
@[to_additive (attr := simp)]
theorem mk_eq_mk_if_isConj {a b : α} :
    IsConj a b → ConjClasses.mk a = ConjClasses.mk b := Quot.sound

/- #check @mk_eq_mk_if_isConj
Left-hand side does not simplify, when using the simp lemma on itself.
            
This usually means that it will never apply.
The simp lemma is invalid because the value of argument
  b : α
cannot be inferred by `simp`.
-/
#lint
```

File: Mathlib/Algebra/Group/Conj.lean (hunk 9 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: Sure! Thanks for the suggestion!

File: Mathlib/Algebra/Group/ConjFinite.lean (hunk 10 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/ConjFinite.lean]: Indeed `Finset.prod_nbij` is more natural, thanks!

File: Mathlib/Algebra/Group/Conj.lean [hunk 12]
```diff
@@ -295,4 +312,19 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
 theorem carrier_eq_preimage_mk {a : ConjClasses α} : a.carrier = ConjClasses.mk ⁻¹' {a} :=
   Set.ext fun _ => mem_carrier_iff_mk_eq
 
+@[to_additive (attr := simp)]
+lemma mk_conj {α : Type*} [Group α] (m x : α) :
+    ConjClasses.mk (m * x * m⁻¹) = ConjClasses.mk x := by
+  simp [mk_eq_mk_iff_isConj]
+
+@[to_additive]
+theorem mapsTo_conj {α : Type*} [Group α] (k : α) (c : ConjClasses α) :
```
Comment (Yu-Misaka) [inline Mathlib/Algebra/Group/Conj.lean:336]: Should I inline this lemma? (I am referring to `mapsTo_conj`)

File: Mathlib/Algebra/Group/Conj.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean]: Ah yeah of course. Then can you please add all the variants of your original lemma as simp lemmas? I count four (depending on which side the inverse is on, and what the bracketing is)

File: Mathlib/Algebra/Group/Conj.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean:336]: It's much easier for me to answer if you make a multiline comment including the statement!

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean:336]: I would say you should replace the `InjOn` and `BijOn` lemmas by a single `InvOn` one

**Comment by YaelDillies** [comment]
Don't forget to resolve the comments that you have satisfactorily addressed!

File: Mathlib/Algebra/Group/Conj.lean (hunk 8 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: No problem :)

File: Mathlib/Algebra/Group/Conj.lean (hunk 12 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean:336]: Ah, sure I'll do multiline next time. And thanks for your advice, implemented! 

(I kept the `MapsTo` lemma though, as it is needed in `Finset.prod_nbij` and can't be derived from `InvOn`)

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean:336]: > I kept the `MapsTo` lemma though, as it is needed in `Finset.prod_nbij` and can't be derived from `InvOn`

This seems bad. Mathematically it should, right? Can you complain on Zulip that the definition of `InvOn` is wrong?

File: Mathlib/Algebra/Group/Conj.lean [hunk 13]
```diff
@@ -80,11 +81,27 @@ section Group
...
+theorem isConj_conj_symm_self {a b : α} : IsConj (a⁻¹ * b * a) b :=
+  isConj_iff.2 ⟨a, by simp [mul_assoc]⟩
+
+@[to_additive (attr := simp)]
+theorem isConj_self_conj {a b : α} : IsConj b (a * b * a⁻¹) :=
+  isConj_conj_self.symm
+
+@[to_additive (attr := simp)]
+theorem isConj_self_conj_symm {a b : α} : IsConj b (a⁻¹ * b * a) :=
+  isConj_conj_symm_self.symm
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Conj.lean]: Is this naming convention documented anywhere?

File: Mathlib/Algebra/Group/ConjFinite.lean [hunk 14]
```diff
@@ -43,4 +43,31 @@ variable [Fintype α] [DecidableRel (IsConj : α → α → Prop)]
...
   Quotient.recOnSubsingleton x fun _ => conjugatesOf.fintype
 
+section Group
+
+variable {G M : Type*} [Group G] [Fintype G] [DecidableEq G] [CommMonoid M]
+  (c : ConjClasses G) (g : G) (f : G → M)
+
+/-- Multiplying `f (g * h * g⁻¹)` over `h` in any conjugacy class of `G` equals multiplying
+`f h` over `h`. -/
+@[to_additive (dont_translate := G) ConjClasses.sum_carrier_conj
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/ConjFinite.lean:53]:
```suggestion
@[to_additive (dont_translate := G) AddConjClasses.sum_carrier_conj
```
or just
```suggestion
@[to_additive (dont_translate := G) sum_carrier_conj
```
because it guesses the namespace automatically

File: Mathlib/Algebra/Group/Conj.lean (hunk 12 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean:336]: lol, sure! (Zulip link: [#mathlib4 > Should Set.InvOn imply Set.MapsTo?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Should.20Set.2EInvOn.20imply.20Set.2EMapsTo.3F/with/611504521))

File: Mathlib/Algebra/Group/Conj.lean (hunk 13 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: humm, I don't know actually, do you have any recommendations?

File: Mathlib/Algebra/Group/ConjFinite.lean (hunk 14 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/ConjFinite.lean:53]: Ah, this part is by design: 

we can't tag `G` as `to_additive` (see discussions [here](https://github.com/leanprover-community/mathlib4/pull/41326#discussion_r3523190276)), so the additivization here is only for `H` and really needs `(c : ConjClasses G)` instead of `(c : AddConjClasses G)`. 

The generated lemma goes like:
```lean4
ConjClasses.sum_carrier_conj.{u_2, u_3} {G : Type u_2} {M : Type u_3} [Group G] [Fintype G] [DecidableEq G]
  [AddCommMonoid M] (c : ConjClasses G) (g : G) (f : G → M) :
  ∑ h ∈ c.carrier.toFinset, f ((MulAut.conj g) h) = ∑ h ∈ c.carrier.toFinset, f h

ConjClasses.sum_carrier_mul_left.{u_2, u_3} {G : Type u_2} {M : Type u_3} [Group G] [Fintype G] [DecidableEq G]
  [AddCommMonoid M] (c : ConjClasses G) (g : G) (f : G → M) :
  ∑ h ∈ c.carrier.toFinset, f (g * h) = ∑ h ∈ c.carrier.toFinset, f (h * g)
```

Comment (YaelDillies) [reply Mathlib/Algebra/Group/ConjFinite.lean:53]: Oh right, I misunderstood sorry!

File: Mathlib/Algebra/Group/Conj.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean]: I would recommend
```suggestion
@[to_additive (attr := simp)]
theorem isConj_mul_mul_inv_left {a b : α} : IsConj (a * b * a⁻¹) b :=
  isConj_iff.2 ⟨a⁻¹, by simp [mul_assoc]⟩

@[to_additive (attr := simp)]
theorem isConj_inv_mul_mul_left {a b : α} : IsConj (a⁻¹ * b * a) b :=
  isConj_iff.2 ⟨a, by simp [mul_assoc]⟩

@[to_additive (attr := simp)]
theorem isConj_mul_mul_inv_right {a b : α} : IsConj b (a * b * a⁻¹) :=
  isConj_conj_self.symm

@[to_additive (attr := simp)]
theorem isConj_inv_mul_mul_right {a b : α} : IsConj b (a⁻¹ * b * a) :=
  isConj_conj_symm_self.symm
```

Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean]: Indeed this is better, thanks!

File: Mathlib/Algebra/Group/Conj.lean [hunk 15]
```diff
@@ -291,8 +308,38 @@ theorem mem_carrier_iff_mk_eq {a : α} {b : ConjClasses α} :
   rw [carrier, eq_comm, mk_eq_mk_iff_isConj, ← quotient_mk_eq_mk, Quotient.lift_mk]
   rfl
 
+@[to_additive (attr := simp)]
+lemma mk_conj {α : Type*} [Group α] (m x : α) :
+    ConjClasses.mk (m * x * m⁻¹) = ConjClasses.mk x := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Conj.lean:313]: Can you use the same naming convention here and below? You can prime the reassociated lemmas to disambiguate

File: Mathlib/Algebra/Group/Conj.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Conj.lean:336]: For now, can you strengthen this to `BijOn`?

Comment (Yu-Misaka) [reply Mathlib/Algebra/Group/Conj.lean:336]: No problem ;)

(I'm a bit busy this week, will get back to you as soon as possible)
